US07202364B2
5-Methoxy-2-bromobenzyl alcohol (79.5 g, 0.37 mol) is dissolved in 48% HBr (400 mL) and heated to reflux temperature for 4 hours. The reaction mixture is cooled to room temperature and poured into water (1500 mL). The solution is extracted with EtOAc (2×500 mL). The combined organic layers are dried (MgSO4) and concentrated by rotary evaporator. The crude material is then purified using flash chromatography (CH2Cl2/hexanes, from 1:1 to 4:1) to give 5-methoxy-2-bromobenzyl bromide.

reactant | 5-Methoxy-2-bromobenzyl alcohol | 0.37 mol, 79.5 g | COC=1C=CC(=C(CO)C1)Br | C8H9BrO2
reactant | water | 1500 mL | O | H2O
reactant | HBr | 400 mL | Br | BrH
product | 5-methoxy-2-bromobenzyl bromide | COC=1C=CC(=C(CBr)C1)Br | C8H8Br2O
